US07202251B2
Step A. 2-Amino-4-bromobenzoic acid
Iron powder (4.15 g, 74.38 mmol) and ammonium chloride (3.32 g, 62.0 mmol) were added to a solution of 4-bromo-2-nitrobenzoic acid [J. Am. Chem. Soc. 1952, 74, 5621] (3.05 g, 12.4 mmol) in ethanol (50 mL) and water (25 mL) and the mixture was heated at reflux. After 6 h, the reaction was filtered, washed with ethanol, and concentrated in vacuo. The crude material was dissolved in water (150 mL) and concentrated HCl (30 mL) and stirred at ambient temperature for 16 h. The mixture was extracted with ethyl acetate (2×200 mL) and the organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure to give the title compound. MS: m/z=216 (M+1).

reactant | ammonium chloride | 62.0 mmol, 3.32 g | [Cl-].[NH4+]
reactant | 4-bromo-2-nitrobenzoic acid | 12.4 mmol, 3.05 g | BrC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4BrNO4
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 25 mL | O | H2O
catalyst | Iron | 74.38 mmol, 4.15 g | [Fe] | Fe
product | 2-Amino-4-bromobenzoic acid | NC1=C(C(=O)O)C=CC(=C1)Br | C7H6BrNO2
